US06080754
7-Benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid anhydride
7Benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid (34.00 g, 60 mmol) was dissolved in 200 ml of pyridine under a nitrogen atmosphere. Acetic acid anhydride (8.8 ml, 90 mmol) was added and the mixture was stirred at room temperature for 21/2 hours. The reaction mixture was allowed to cool to room temperature and the product was filtered off, and washed with petroleum ether. This gave 25.63 g (81%) of the title compound as yellow crystals. M.p. 229-231° C. MS(SP): m/z 527 (M+). 1H-NMR (CDCl3, and DMSO-d6, 300 MHz) δ: 1.47 (t, 3H); 3.20 (q, 2H); 5.18 (s, 2H); 5.59 (s, 2H); 7.19 (d, 2H); 7.30-7.55 (m, 9H); 7.62 (d, 2H); 7.79 (d, 2H); 7.98 (d, 1H).

reactant | 7Benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid | 60 mmol, 34.00 g | C(C1=CC=CC=C1)OC1=CC=C2N3C(=C(C(=C13)C(=O)O)C(=O)O)C(=C2CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C34H27NO6
reactant | Acetic acid anhydride | 90 mmol, 8.8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 7-Benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylic acid anhydride | C(C1=CC=CC=C1)OC1=CC=C2N3C(=C4C(=C13)C(=O)OC4=O)C(=C2CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C34H25NO5
